US07148218B2
i) Preparation of (2R,3S,4S,5S,7S,8Z, 10S,11S,12S,13Z,16S,17R,18R,19S,20S)-19-[(aminocarbonyl)oxy]-3,11,17-tris[[(1,1-dimethylethyl)dimethylsilyl]oxy]-5,7-dihydroxy-N-methoxy-N,2,4,10,12,14,16,18,20-nonamethyl-21-(phenylmethoxy)-8,13-heneicosadienamide.
A solution of tetramethylammonium triacetoxyborohydride (263 mg, 1 mmol, 10 eq) in MeCN/HOAc(1:1, 1.1 mL) is stirred for 1 h at 23° C. and cooled to −30° C. A solution of (2R,3S,4R,7S,8Z,10S, 11S,12S,13Z, 16S,17R,18R, 19S,20S)-19-[(aminocarbonyl)oxy]-3,11,17-tris[[(1,1-dimethylethyl)dimethylsilyl]oxy]-7-hydroxy-N-methoxy-N,2,4,10,12,14,16,18,20-nonamethyl-5-oxo-21-(phenylmethoxy)-8,13-heneicosadienamide (103 mg, 0.1 mmol)in MeCN (1 mL) is added dropwise. The mixture is stirred for 14 h at −30° C. Saturated Rochelle's salt solution is added and the resultant stirred for 30 min. Then the mixture is warmed to 23° C. CH2Cl2 (5 mL) is added to the mixture. The organic layer is separated, washed with brine and dried over MgSO4. The solvent is removed. The crude product is chromatographed (20% EtOAc in hexane) to give 80 mg (80%) of the desired compound as a colorless oil.

reactant | tetramethylammonium triacetoxyborohydride | 1 mmol, 263 mg, 10 eq | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.C[N+](C)(C)C
reactant | 19-[(aminocarbonyl)oxy]-3,11,17-tris[[(1,1-dimethylethyl)dimethylsilyl]oxy]-7-hydroxy-N-methoxy-N,2,4,10,12,14,16,18,20-nonamethyl-5-oxo-21-(phenylmethoxy)-8,13-heneicosadienamide | 0.1 mmol, 103 mg | NC(=O)OC(C(C(C(CC(=CC(C(C(C=CC(CC(C(C(C(C(=O)N(C)OC)C)O[Si](C)(C)C(C)(C)C)C)=O)O)C)O[Si](C)(C)C(C)(C)C)C)C)C)O[Si](C)(C)C(C)(C)C)C)C(COCC1=CC=CC=C1)C | C57H106N2O10Si3
reactant | Rochelle's salt | [C@@H]([C@H](C(=O)[O-])O)(C(=O)[O-])O.[Na+].[K+]
reactant | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
solvent | MeCN HOAc | 1.1 mL | CC#N.CC(=O)O
solvent | MeCN | 1 mL | CC#N | C2H3N
product | (2R,3S,4S,5S,7S,8Z, 10S,11S,12S,13Z,16S,17R,18R,19S,20S)-19-[(aminocarbonyl)oxy]-3,11,17-tris[[(1,1-dimethylethyl)dimethylsilyl]oxy]-5,7-dihydroxy-N-methoxy-N,2,4,10,12,14,16,18,20-nonamethyl-21-(phenylmethoxy)-8,13-heneicosadienamide | 80 mg, 80% | NC(=O)O[C@H]([C@H]([C@@H]([C@H](C\C(=C/[C@@H]([C@H]([C@H](\C=C/[C@H](C[C@@H]([C@@H]([C@@H]([C@H](C(=O)N(C)OC)C)O[Si](C)(C)C(C)(C)C)C)O)O)C)O[Si](C)(C)C(C)(C)C)C)\C)C)O[Si](C)(C)C(C)(C)C)C)[C@H](COCC1=CC=CC=C1)C | C57H108N2O10Si3
